US07557213B2
Step 1: 1-(6-Methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester
Experimental conditions analogous to those described for Step 3 of Example 1, from 2.87 g (13.2 mmol) of 4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester, 0.64 g (15.9 mmol) of 60% sodium hydride, 2.95 g (15.9 mmol) of 2-bromomethyl-6-methyl-pyridine in 30 mL DMF to give 3.18 g of the product as an off-white solid.

reactant | 4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 13.2 mmol, 2.87 g | C(C)OC(=O)C1=CNC2=CC=CC=C2C1=O | C12H11NO3
reactant | sodium hydride | 15.9 mmol, 0.64 g | [H-].[Na+]
reactant | 2-bromomethyl-6-methyl-pyridine | 15.9 mmol, 2.95 g | BrCC1=NC(=CC=C1)C | C7H8BrN
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-(6-Methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 3.18 g | C(C)OC(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)C | C19H18N2O3
